US06699879B1
N-cyclopropylmethyl-2-methoxy-5-nitrobenzamide
A solution of 2-methoxy-5-nitrobenzoic acid (4.9 g) (Rec. Trav. Chim. Pays-Bas, 1936, 737) and cyclopropylmethylamine (1.75 g) in dimethylformamide was treated with N-hydroxybenzotriazole (0.2 g) and EDC.HCl (4.74 g). The mixture was stirred for 24 h. Saturated sodium hydrogen carbonate was added, the mixture stirred for 3 h and the precipitate collected as the title compound (6.95 g). m/z (API+): 251 (MH+).

reactant | 2-methoxy-5-nitrobenzoic acid | 4.9 g | COC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO5
reactant | cyclopropylmethylamine | 1.75 g | C1(CC1)CN | C4H9N
reactant | N-hydroxybenzotriazole | 0.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC.HCl | 4.74 g | CCN=C=NCCCN(C)C.Cl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-cyclopropylmethyl-2-methoxy-5-nitrobenzamide | C1(CC1)CNC(C1=C(C=CC(=C1)[N+](=O)[O-])OC)=O | C12H14N2O4
